US07776869B2
Step 6: 5-(2-(diethylamino)ethoxy)-2-methoxyphenylamine
N,N-diethyl-2-(4-methoxy-3-nitrophenoxy)ethylamine (0.29 g, 1.1 mmol) was hydrogenated over Pd (5% on C, 50% wet, 0.12 g) in ethanol (5 ml) for 16 hours. The catalyst was filtered off and the solvent removed under reduced pressure to afford the title compound as a red oil. MS (m/z)=239(M+H+); Calc'd for C13H22N2O2=238.33.

reactant | N,N-diethyl-2-(4-methoxy-3-nitrophenoxy)ethylamine | 1.1 mmol, 0.29 g | C(C)N(CC)CCOC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C13H20N2O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Pd | 0.12 g | [Pd] | Pd
product | 5-(2-(diethylamino)ethoxy)-2-methoxyphenylamine | C(C)N(CCOC=1C=CC(=C(C1)N)OC)CC | C13H22N2O2
